US04310693
(a) Synthesis of sodium 2-(2-methoxyethoxy)-5-nitrobenzenesulfonate
To a solution of sodium 2-methoxy-ethylate prepared by adding 7.3 g of sodium hydride (14.6 g as a state of 50% liquid paraffin dispersion) to 300 ml of methyl cellosolve, 55 g of sodium 2-chloro-5-nitrobenzenesulfonate was added with stirring. The reaction mixture was heated to a temperature from about 80° to 85° C. in a hot water bath with stirring for 30 minutes. After carried out filtration with heating, 1.5 liters of isopropyl alcohol were added to the filtrate. The crystals thus-formed were separated by filtration and washed with 100 ml of isopropyl alcohol. Yield: 59 g. m.p.: 238°-239° C.

reactant | sodium hydride | 7.3 g | [H-].[Na+]
reactant | sodium 2-chloro-5-nitrobenzenesulfonate | 55 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+]
reactant | methyl cellosolve | 300 ml | COCCO | C3H8O2
product | sodium 2-(2-methoxyethoxy)-5-nitrobenzenesulfonate | COCCOC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+] | InChI=1S/C9H11NO7S.Na/c1-16-4-5-17-8-3-2-7(10(11)12)6-9(8)18(13,14)15;/h2-3,6H,4-5H2,1H3,(H,13,14,15);/q;+1/p-1
